US07399775B2
2-(4-Chlorophenylsulfonylmethyl)benzonitrile
A dimethoxyethane (5 ml) suspension of sodium 4-chlorobenzenesulfinate (218 mg, 1.10 mmol) and 2-bromomethylbenzonitrile (215 mg, 1.10 mmol) was stirred at 70° C. for 17 hours. After cooling the reaction mixture to room temperature, the solvent was concentrated under reduced pressure. The residue thus obtained was subjected to chromatography on a short silica gel column and the fraction obtained from the ether eluate was concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column and the fraction obtained from the hexane:ethyl acetate (=3:1) eluate was concentrated under reduced pressure to give a white solid. The resulting white solid was washed with ether, and collected by filtration, whereby the title compound (226 mg, 70%) was obtained as a white powder.

reactant | dimethoxyethane | 5 ml | C(OC)COC | C4H10O2
reactant | sodium 4-chlorobenzenesulfinate | 1.10 mmol, 218 mg | ClC1=CC=C(C=C1)S(=O)[O-].[Na+]
reactant | 2-bromomethylbenzonitrile | 1.10 mmol, 215 mg | BrCC1=C(C#N)C=CC=C1 | C8H6BrN
solvent | ether | CCOCC | C4H10O
product | 2-(4-Chlorophenylsulfonylmethyl)benzonitrile | ClC1=CC=C(C=C1)S(=O)(=O)CC1=C(C#N)C=CC=C1 | C14H10ClNO2S
